US06174877B1
4-Nitrobenzyl 4-bromo-3-oxopentanoate
2-Bromopropionyl chloride (8.57 g) was dissolved in acetonitrile (200 ml). To the solution were added, at 0° C., imidazole (6.81 g) and magnesium p-nitrobenzyl malonate (25.0 g). The mixture was stirred for 6 hours at 25° C. Insolubles were filtered off, and the filtrate was concentrated. To the concentrate were added water (100 ml) and ethyl ether (100 ml). The mixture was shaken and left standing to form two layers. The organic layer was dried over anhydrous magnesium sulfate, which was then concentrated under reduced pressure. The concentrate was purified by means of a column chromatography (carrier: silica gel, 50 g, developing solvent: hexane-ethyl acetate, 2:1) to afford the title compound (1.92 g).

reactant | 2-Bromopropionyl chloride | 8.57 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | imidazole | 6.81 g | N1C=NC=C1 | C3H4N2
reactant | magnesium p-nitrobenzyl malonate | 25.0 g | C(CC(=O)[O-])(=O)OCC1=CC=C(C=C1)[N+](=O)[O-].[Mg+2].[N+](=O)([O-])C1=CC=C(COC(CC(=O)[O-])=O)C=C1
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-Nitrobenzyl 4-bromo-3-oxopentanoate | 1.92 g | BrC(C(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C12H12BrNO5
